US09108939B2
C: 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)pyrrolidin-3-yloxy)phenyl)urea
A solution of 2-(4-((3-(4-aminophenoxy)pyrrolidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.345 mmol, 150 mg) and 4-nitrophenyl carbonochloridate (0.345 mmol, 69.6 mg) in tetrahydrofuran (5 mL) was stirred at room temperature for 30 minutes. Cyclopropylmethanamine (0.691 mmol, 49.1 mg) was added, followed by triethylamine (0.691 mmol, 0.096 mL, 69.9 mg) and the reaction stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane/saturated sodium bicarbonate solution and filtered through a hydrophobic frit. The organic layer was concentrated under vacuum. The residue was purified by prep-HPLC (acidic conditions) and SCX chromatography to give title compound (30 mg).

reactant | 2-(4-((3-(4-aminophenoxy)pyrrolidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.345 mmol, 150 mg | NC1=CC=C(OC2CN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C20H20F6N2O2
reactant | 4-nitrophenyl carbonochloridate | 0.345 mmol, 69.6 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Cyclopropylmethanamine | 0.691 mmol, 49.1 mg | C1(CC1)CN | C4H9N
reactant | triethylamine | 0.691 mmol, 0.096 mL, 69.9 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)pyrrolidin-3-yloxy)phenyl)urea | 30 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)OC1CN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C25H27F6N3O3
